US07456176B2
Synthesis of 4-[7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide HCl salt
In a dry 25 mL round bottom flask, 7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine (0.193 g, 0.633 mmol, 1 equiv), 4-bromo-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide (0.316 g, 0.95 mmol, 1.5 equiv), cesium carbonate (0.62 g, 1.89 mmol, 3 equiv), 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene (0.073 g, 0.127 mmol, 0.2 equiv) and tris(dibenzylideneacetone)dipalladium (0.058 g, 0.0533 mmol, 0.1 equiv) were combined. The reactants were flushed with argon, diluted with dioxane (20 mL), and outfitted with a reflux condenser. The reaction was heated to reflux for 16 hours, then filtered hot and the solvents were evaporated. HPLC purification provided desired product. Pure HPLC fractions were combined, diluted with ethyl acetate and washed with saturated sodium bicarbonate solution. The organic phase was evaporated to dryness, diluted with DCM (10 mL) and treated with 2 mL 2M HCl in ether solution. The solvents were then evaporated and the resulting solids were collected and dried to yield a yellow solid (0.091 g, 26% yield). MS (ESI+): m/z=559.6, LC retention time: 2.71 min. 1H NMR (DMSO-d6): δ 1.86 (bs, 2H), 1.98 (bs, 2H), 2.71 (s, 3H), 2.98-3.01 (m, 2H), 3.09-3.13 (m, 2H), 3.21-3.25 (m, 2H), 3.51-3.53 (m, 2H), 7.52 (m, 1H), 7.67 (d, J=8.7 Hz, 2H), 7.79 (m, 1H), 7.89 (dd, J=8.7 Hz, J=2.9 Hz, 1H), 7.95 (t, J=6.1 Hz, 1H), 8.18 (d, J=1.7 Hz, 1H), 8.26 (d, J=8.8 Hz, 2H), 10.37 (bs, 1H), 11.44 (s, 1H).

reactant | 7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamine | 0.633 mmol, 0.193 g, 1 equiv | ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=N2)N)C(=C1)C | C14H10Cl2N4
reactant | 4-bromo-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide | 0.95 mmol, 0.316 g, 1.5 equiv | BrC1=CC=C(C=C1)S(=O)(=O)NCCN1CCCC1 | C12H17BrN2O2S
reactant | cesium carbonate | 1.89 mmol, 0.62 g, 3 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethyl xanthene | 0.127 mmol, 0.073 g, 0.2 equiv | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0533 mmol, 0.058 g, 0.1 equiv | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[7-(2,6-dichloro-phenyl)-5-methyl-benzo[1,2,4]triazin-3-ylamino]-N-(2-pyrrolidin-1-yl-ethyl)-benzenesulfonamide HCl salt | Cl.ClC1=C(C(=CC=C1)Cl)C1=CC2=C(N=C(N=N2)NC2=CC=C(C=C2)S(=O)(=O)NCCN2CCCC2)C(=C1)C | InChI=1S/C26H26Cl2N6O2S.ClH/c1-17-15-18(24-21(27)5-4-6-22(24)28)16-23-25(17)31-26(33-32-23)30-19-7-9-20(10-8-19)37(35,36)29-11-14-34-12-2-3-13-34;/h4-10,15-16,29H,2-3,11-14H2,1H3,(H,30,31,33);1H
